US08193359B2
LiHMDS (5.9 mL of a 1.0 M solution in THF, 5.90 mmol) was added dropwise to a stirred suspension of furo[3,2-c]pyridin-2-ylmethyltriphenylphosphonium bromide hydrochloride (Preparation 6, 1.50 g, 2.94 mmol) in anhydrous THF (25 mL) at 0° C. After 45 min, the mixture was treated with 4-formylpiperidine-1-carboxylic acid tert-butyl ester (0.63 g, 2.94 mmol), before being stirred at 20° C. for 16 h. The reaction mixture was diluted with EtOAc (300 mL), before being washed with H2O (2×100 mL) and dried (MgSO4). Filtration, solvent evaporation, and flash chromatography (IH-EtOAc, 1:1) furnished 4-(2-furo[3,2-c]pyridin-2-ylvinyl)piperidine-1-carboxylic acid tert-butyl ester: m/z (ES+)=329.1 [M+H]+. This alkene (830 mg, 2.53 mmol) was dissolved in EtOH (15 mL), then Pd (10% on C, 83 mg, 0.08 mmol) was added. The reaction was stirred under a H2 atmosphere for 16 h, before being filtered through celite. The celite was washed with MeOH, then the combined solutions were concentrated to provide the title compound: RT=2.86 min; m/z (ES+)=331.2 [M+H]+.

reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | furo[3,2-c]pyridin-2-ylmethyltriphenylphosphonium bromide hydrochloride | 2.94 mmol, 1.50 g | Cl.[Br-].O1C(=CC=2C=NC=CC21)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | 4-formylpiperidine-1-carboxylic acid tert-butyl ester | 2.94 mmol, 0.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 4-(2-furo[3,2-c]pyridin-2-ylvinyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=CC1=CC=2C=NC=CC2O1 | C19H24N2O3
